Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
altered mental status 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old male with history of hypothyroidism, HTN, ETOH use,
TBI who presents with subacute cognitive decline and lab
abnormalities. 

The patient reports that over the past
year he has had changes in his cognition that "come and go." For
example, last week he forgot how to fold laundry but can do it
now. He has had increasing memory difficulty over the past 
couple
of years, such as losing his keys (and making 10 copies around
the house to compensate), forgetting his destination while
driving. His wife handles the finances but he is capable of
cooking for himself. The immediate event that prompted him to
come to the ED was "something was different," he felt that he 
had
a lot of trouble thinking clearly. He did not have other
immediate changes in symptoms. He reports that he sometimes 
"gets
sick to my stomach" but is not nauseous. He has had to "make
things up because I forget, to be honest." 

Over the past year, he has had increased fatigue and a 28 lb
weight loss associated with mild decrease in appetite, he is
eating ___ meals/day. He has no nausea, vomiting, or changes in
bowel habits. He has had no recent falls from standing or
difficulty with walking. He denies headaches or changes in
vision, tremor. He denies fevers, chills, sweats. His wife ___
that he gets up frequently to urinate at night and is "always
opening and closing the windows" because of the temperature. He
has noticed that he bruises more easily since starting to lose
weight. He also had an episode of hand cramping and being 
"stuck"
in one position at the end ___ that self resolved. No joint
swelling or pains although he does take turmeric and mustard 
seed
for joint pains. 

His wife notes that he has basically become more apathetic over
the past few weeks. Brother-in-law passed away in ___, close
friend passed in ___, no precipitous drop for latter, but was
broken up by former. Sister-in-law living with family, producing
stress. He lost his job for a ___ about 6 months
ago. Only ___ changes on MRI Brain. Law saw neurologist ___,
had thought potentially MCI.  

He has a history of head trauma notable for a severe concussion
in ___ while white water rafting (cracked a Kevlar helmet) and
several concussions while skiing. 
 
Past Medical History:
Hypothyroidism
HTN 
HLD 
ETOH use 
remote history of cocaine use 
 
Social History:
___
Family History:
Father: needed dialysis for kidney failure, no diabetes, HTN 
Mother: healthy
Brother: frontotemporal dementia
Brother: bipolar disorder 
___ abuse. No family history of neurologic disease or
malignancy. 
 
Physical Exam:
ON ADMISSION: 
Vitals:  98.4 F. BP 160/82, HR 81, RR 16, 99% RA  
General: Awake, cooperative, NAD, flat affect 
HEENT: NC/AT, no scleral icterus noted, MMM with tongue
fasciculations, poor dentition, no lesions noted in oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, II/VI systolic murmur 
Abdomen: soft, NT/ND, normoactive bowel sounds, mild
hepatomegaly, no tenderness 
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally.
Skin: no rashes or lesions noted, no petechiae 
Neuro: CN II-XII intact, tongue fasciculations as above, no
asterixis but did have tremor L>R and mild intention tremor on
finger to nose testing (and slight dysmetria with left hand),
other cerebellar testing intact, strength equal and ___, no 
gross
sensory deficits, negative Romberg, normal gait with no ataxia,
patella and AT reflexes 1+, toes down-going 

ON DISCHARGE: 
Vitals:  98.1 F, BP 132/86, HR 66, RR 18, 97 RA 
General: Awake, cooperative, NAD 
HEENT: NC/AT, no scleral icterus noted, MMM, poor dentition, no
lesions noted in oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally
Cardiac: RRR, II/VI systolic murmur 
Abdomen: soft, NT/ND, normoactive bowel sounds, mild
hepatomegaly, no tenderness 
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally.
Skin: no rashes or lesions noted, no petechiae 
Neuro: CN II-XII intact, strength equal and ___, no gross
sensory deficits  
 
Pertinent Results:
ON ADMISSION: 
___ 08:15PM BLOOD WBC-8.7 RBC-3.50* Hgb-12.5* Hct-35.4* 
MCV-101* MCH-35.7* MCHC-35.3 RDW-14.1 RDWSD-52.1* Plt ___
___ 08:15PM BLOOD Plt ___
___ 09:14PM BLOOD ___ PTT-27.4 ___
___ 08:15PM BLOOD Glucose-179* UreaN-12 Creat-0.8 Na-131* 
K-4.2 Cl-99 HCO3-22 AnGap-10
___ 08:15PM BLOOD ALT-84* AST-168* AlkPhos-167* TotBili-1.2
___ 08:15PM BLOOD cTropnT-<0.01
___ 08:15PM BLOOD Lipase-63*
___ 08:15PM BLOOD Albumin-3.3*
___ 01:50PM BLOOD Calcium-8.0* Phos-2.6* Mg-1.9 Iron-136
___ 08:15PM BLOOD VitB12-593
___ 08:15PM BLOOD ASA-NEG Ethanol-53* Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 08:31PM BLOOD Lactate-3.1*

INTERIM LABS: 
___ 06:35AM BLOOD WBC-4.2 RBC-3.12* Hgb-11.3* Hct-32.5* 
MCV-104* MCH-36.2* MCHC-34.8 RDW-13.9 RDWSD-53.1* Plt Ct-82*
___ 01:50PM BLOOD ALT-81* AST-135* AlkPhos-156* 
TotBili-1.6*
___ 06:35AM BLOOD ALT-61* AST-104* LD(LDH)-214 AlkPhos-116 
TotBili-1.6*
___ 01:50PM BLOOD calTIBC-211* Ferritn-6587* TRF-162*
___ 06:35AM BLOOD %HbA1c-4.8 eAG-91
___ 06:35AM BLOOD Osmolal-290
___ 04:11AM BLOOD TSH-4.2
___ 06:35AM BLOOD Cortsol-15.9
___ 06:35AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG
___ 06:35AM BLOOD HCV Ab-NEG
___ 01:55AM BLOOD Lactate-3.4*
___ 02:26PM BLOOD Lactate-2.9*

MICRO: 
Time Taken Not Noted     Log-In Date/Time: ___ 4:11 am
      SEROLOGY/BLOOD

                            **FINAL REPORT ___

   RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive. 

___ 12:02 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

RADIOLOGY: 
CHEST XRAY: 
No acute cardiopulmonary abnormality.

NON CON HEAD CT: 
No acute intracranial abnormality contrast head CT.  
Specifically no large
territory infarct, intracranial mass effect or acute hemorrhage.

RIGHT UPPER QUANDRANT ULTRASOUND: 
Normal abdominal ultrasound.  No findings to explain patient's 
symptoms. 
Patent hepatic vasculature.

CT ABDOMEN/PELVIS: 
1. Mild gallbladder wall edema without evidence of gallstones, 
of uncertain
clinical significance.  This finding can be seen in patients 
with liver
disease or hypoalbuminemia.  If clinical conditions require 
cholecystitis to
be excluded, consider HIDA scan for further evaluation.
2. Mild thickening of the colonic and rectal walls is likely 
secondary to
nondistention.
3. No evidence of abscess, mass or bowel ischemia.

HIDA SCAN: 
IMPRESSION:  Normal hepatobiliary scan.

LABS ON DISCHARGE: 
___ 05:55AM BLOOD WBC-5.8 RBC-3.35* Hgb-12.0* Hct-35.1* 
MCV-105* MCH-35.8* MCHC-34.2 RDW-14.0 RDWSD-53.4* Plt Ct-97*
___ 05:55AM BLOOD Plt Ct-97*
___ 05:55AM BLOOD Glucose-95 UreaN-12 Creat-0.7 Na-139 
K-3.9 Cl-99 HCO3-27 AnGap-13
___ 05:55AM BLOOD ALT-59* AST-93* LD(LDH)-207 AlkPhos-117 
TotBili-1.4
___ 05:55AM BLOOD Calcium-8.4 Phos-3.1 Mg-2.___ year old male with history of hypothyroidism, HTN, ETOH use, 
TBI who presents with altered mental status. 

ACUTE/ACTIVE PROBLEMS:
# Encephalopathy
# Dementia: based on the history of his symptoms, the patient 
was felt to have findings concerning for early dementia. He had 
MOCA scores of ___ and repeat ___ showing at least mild 
cognitive impairment. There is a family history of 
fronto-temporal dementia. He also has a history of alcohol 
abuse, which may complicate the picture. He did not have 
signs/symptoms of withdrawal during this hospitalization. He had 
an A1C, cortisol, and TSH done which were within normal limits, 
and was evaluated by neurology, who did not recommend acute 
intervention, but outpatient follow up with cognitive neurology. 
He was evaluated by occupational therapy who recommended home 
treatments.  

# Hyponatremia: unclear etiology, patient is euvolemic on exam. 
Resolved with IVF administration.

# Gallbladder wall edema: mild edema seen on CT scan in the 
emergency room. A follow up HIDA scan was normal. The patient 
has no abdominal pain, mildly elevated bilirubin that trended 
down to normal over the hospitalization. 

# Transaminitis: 2:1 AST:ALT pattern consistent with alcohol 
use, although does not yet meet criteria for alcoholic 
hepatitis. No evidence of cirrhosis on CT scan. He also had 
macrocytosis and thrombocytopenia suggestive of alcohol effect. 
Hepatitis serologies were negative. His LFTs trended down over 
the course of the hospital stay. 

# Elevated lactate: presented with a lactate of 3.3 that 
improved to 2.9 with fluid administration in the emergency room. 
He did not appear toxic, so unlikely to have been influenced by 
sepsis or hypoperfusion. This may be related to his alcohol use. 


# ETOH use: patient reports drinking at least 3 drinks/day, last 
drink ___, wife believes he may have had withdrawal symptoms at 
the end ___. No history of seizures. As stated above, 
lab findings were consistent with alcohol use. He was kept on a 
CIWA protocol here, with no signs of withdrawal. He and his wife 
met with social work during this hospitalization to discuss his 
alcohol use and cognitive decline.  Patient was instructed and 
agrees to cut back on alcohol.

# Thrombocytopenia: may be related to ETOH use and underlying 
liver disease, no petechiae, bleeding or brusing or splenomegaly 
on exam/imaging. His platelets remained stable and were 
uptrending at time of discharge. 

CHRONIC/STABLE PROBLEMS:
# Hypothyroidism: TSH checked and within normal limits, 
continued home levothyroxine 

# Hypertension: continued on home lisinopril and HCTZ, 
low-sodium diet. 

***TRANSITIONAL ISSUES***
- will follow up with cognitive neurology to discuss cognitive 
decline 
- patient endorses drinking ___ pints of beer/day, has signs of 
liver damage by labs, although no cirrhosis, fatty liver seen on 
abdominal imaging. Counseled on reducing alcohol use. 
- should get immunizations for hepatitis B given negative HbsAb
- heart murmur on exam, please correlate with old records to see 
if this is an old murmur 
- MOCA score ___ and ___ on repeat exam
- platelet count at time of discharge 97, would consider 
following this as an outpatient 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 50 mcg PO DAILY 
2. Lisinopril 10 mg PO DAILY 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Thiamine 100 mg PO DAILY 
5. FoLIC Acid 1 mg PO DAILY 
6. Tumersaid (___) ___ mg 
oral DAILY 

 
Discharge Medications:
1.  FoLIC Acid 1 mg PO DAILY  
2.  Hydrochlorothiazide 25 mg PO DAILY  
3.  Levothyroxine Sodium 50 mcg PO DAILY  
4.  Lisinopril 10 mg PO DAILY  
5.  Thiamine 100 mg PO DAILY  
6.  Tumersaid (___) ___ 
mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Encephalopathy
Dementia
Transaminitis
Alcohol abuse

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Mental Status: Confused - sometimes.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you during your hospitalization at 
___.  You came for further evaluation of confusion. Further 
testing showed no defined reason for why you were acutely 
confused. You are now being discharged home.  

You were noted to have abnormalities in your liver function 
tests and blood count that indicate damage from alcohol use. 
Please try to cut down on alcohol intake or abstain completely. 

It is important that you continue to take your medications as 
prescribed and follow up with the appointments listed below.

It was a pleasure taking care of you and we wish you the best! 

Sincerely,
Your ___ team 
 
Followup Instructions:
___